US06740647B1
c) 5-Bromomethyl-4-chlorothiophene-3-carbonitrile
36.1 g (137 mmol) of triphenylphosphine were added at 5° C. to a solution of 21.7 g (125 mmol) of 5-hydroxymethyl-4-chlorothiophene-3-carbonitrile in 250 ml of tetrahydrofuran. Then, a solution of 45.6 g (137 mmol) of tetrabromomethane in 100 ml of tetrahydrofuran was added. The mixture was stirred overnight at room temperature. The precipitate was filtered off, the filtrate was concentrated on a rotary evaporator under a water pump vacuum, and the residue was purified by column chromatography (eluant petroleum ether:dichloromethane 1:1). This gave 26.0 g (88%) of the title compound as an oil.

reactant | triphenylphosphine | 137 mmol, 36.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-hydroxymethyl-4-chlorothiophene-3-carbonitrile | 125 mmol, 21.7 g | OCC1=C(C(=CS1)C#N)Cl | C6H4ClNOS
reactant | tetrabromomethane | 137 mmol, 45.6 g | BrC(Br)(Br)Br | CBr4
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Bromomethyl-4-chlorothiophene-3-carbonitrile | BrCC1=C(C(=CS1)C#N)Cl | C6H3BrClNS
